US08053453B2
Synthesis of methyl 4-[(2-{1-[1-(6-chloro-3-pyridazinyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]-ethyl}hydrazino)carbonyl]benzoate
0.2 mmol of 1-[1-(6-chloro-3-pyridazinyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl]ethanone and 0.2 mmol of 4-methoxycarbonylbenzhydrazide were dissolved in 2 ml of DMSO and heated at 100° C. for 8 hours with stirring. After the solvent was removed by evaporation, the crude product was dissolved in chloroform and recrystallized from ether to obtain 55 mg of the desired product, methyl 4-[(2-{1-[1-(6-chloro-3-pyridazinyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]-ethyl}hydrazino)carbonyl]benzoate (yield 64%).

reactant | 1-[1-(6-chloro-3-pyridazinyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl]ethanone | 0.2 mmol | ClC1=CC=C(N=N1)N1N=C(C(=C1O)C(C)=O)C | C10H9ClN4O2
reactant | 4-methoxycarbonylbenzhydrazide | 0.2 mmol | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | methyl 4-[(2-{1-[1-(6-chloro-3-pyridazinyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene]-ethyl}hydrazino)carbonyl]benzoate | yield 64% | ClC1=CC=C(N=N1)N1N=C(C(C1=O)=C(C)NNC(=O)C1=CC=C(C(=O)OC)C=C1)C | C19H17ClN6O4
